US06352993B1
Step 1: 6-methoxymethyl-5-methyl-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine
1,2,3,4-tetrahydroisoquinoline(0.9 ml, 6.9 mmol) was added dropwise to a solution of 2,4-dichloro-6-methoxymethyl-5-methylpyrimidine(1.3 g, 6.3 mmol) and triethylamine(0.96 ml, 6.9 mmol) in dimethylformamide and stirred for 5 hours at a room temperature. The reaction mixture was diluted with dichloromethane and washed with water and aqueous sodium hydroxide solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to give 1.8 g of the titled compound. (Yield: 94.0%)

reactant | 1,2,3,4-tetrahydroisoquinoline | 6.9 mmol, 0.9 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 2,4-dichloro-6-methoxymethyl-5-methylpyrimidine | 6.3 mmol, 1.3 g | ClC1=NC(=C(C(=N1)Cl)C)COC | C7H8Cl2N2O
reactant | triethylamine | 6.9 mmol, 0.96 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methoxymethyl-5-methyl-chloro-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 g, Yield: 94.0% | COCC1=C(C(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1)C | C16H18ClN3O
